US04581168
2. H-Ala-Arg(NO2)Leu-NH2
443 g of trifluoroacetate of H-Arg(NO2)Leu-NH2 are dissolved in 2 l of DMF. 200 g of Boc-Ala-OH, then 500 g of BOP are added. The pH is adjusted to 7 with pH paper (on small samples of the reaction medium) with the aid of NEM. The medium is stirred and the development of the reaction is followed by TLC. The reaction is terminated after 4 hrs. The medium is evaporated to dryness in vacuo at 25°. The residue is taken up in 2 l of water and 2 l of ethyl acetate. The organic phase is washed with a 5% aqueous solution of NaHCO3, with water, dried and evaporated. The tripeptide is recrystallized in ethyl-acetate/ether, and finally dried in vacuo. It is monitored by TLC and NMR.

reactant | trifluoroacetate | 443 g | FC(C(=O)[O-])(F)F
reactant | H-Arg(NO2)Leu-NH2 | N[C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)N[C@@H](CC(C)C)C(=O)N | C12H25N7O4
reactant | Boc-Ala-OH | 200 g | N([C@@H](C)C(=O)O)C(=O)OC(C)(C)C | C8H15NO4
reactant | BOP | 500 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | DMF | 2 l | CN(C)C=O | C3H7NO
product | H-Ala-Arg(NO2)Leu-NH2 | N[C@@H](C)C(=O)N[C@@H](CCCNC(N[N+](=O)[O-])=N)C(=O)N[C@@H](CC(C)C)C(=O)N | C15H30N8O5
